US06087336
Methyl 3-(2-cyanobenzo[b]thiophen-5-yl)acrylate (2.5 g) was hydrogenated in THF (20 ml) using 10% palladium on carbon (0.5 g) as catalyst until the majority of the starting material had disappeared by thin layer chromatography (silica plates eluting with ethyl acetate/hexane 1:4). The mixture was filtered and evaporated to give methyl 2-cyanobenzo[b]thiophene-5-propionate (1.45 g) contaminated with ~20% of starting material. Sodium hydroxide (0.23 g) was added to a mixture of this product (1.4 g) in THF (10 ml) and uater (3 ml) and the mixture was stirred for 2 hours. The mixture was adjusted to ~pH 5 with concentrated hydrochloric acid and concentrated by evaporation to remove the THF present.

reactant | Methyl 3-(2-cyanobenzo[b]thiophen-5-yl)acrylate | 2.5 g | C(#N)C1=CC2=C(S1)C=CC(=C2)C=CC(=O)OC | C13H9NO2S
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | methyl 2-cyanobenzo[b]thiophene-5-propionate | 1.45 g | C(#N)C1=CC2=C(S1)C=CC(=C2)CCC(=O)OC | C13H11NO2S
